US07893055B2
5-(Methylthio)furan-2-carbaldehyde.
To a solution of 2-(diethoxymethyl)furan (2.00 g, 11.75 mmol) in dry THF (8 mL) was added a solution of n-BuLi (1.6 M in Hexane) (8.80 mL, 14.1 mmol) at −78° C. The resulting mixture was stirred at −78° C. for 1 h and treated with methyldisulfide (1.06 mL, 11.75 mmol). The reaction mixture was stirred at −78° C. for 30 min followed by warming to 0° C. for 1 hour. HCl (1N) (20 mL) was added and the organic material was extracted with ether (2×50 mL). The combined organic fractions were dried (MgSO4) and concentrated in vacuo to afford 1.58 g (94%) of crude title compound. LCMS (+ESI, M+H+) m/z 143.

reactant | 2-(diethoxymethyl)furan | 11.75 mmol, 2.00 g | C(C)OC(C=1OC=CC1)OCC | C9H14O3
reactant | n-BuLi | 14.1 mmol, 1.6 M, 8.80 mL | [Li]CCCC
reactant | methyldisulfide | 11.75 mmol, 1.06 mL | CSSC | C2H6S2
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-(Methylthio)furan-2-carbaldehyde | 1.58 g, 94% | CSC1=CC=C(O1)C=O | C6H6O2S
